US07531532B2
4-(2-Fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine
Thionyl chloride (2.0 ml) was added to 2-(4-fluorophenyl)acetic acid (694 mg) under a nitrogen atmosphere, followed by stirring at 50° C. for 1 hr. The reaction mixture was concentrated under a reduced pressure to give a residue. The residue was dissolved in acetonitrile (100 ml) under a nitrogen atmosphere, and then potassium thiocyanate (875 mg) was added thereto at 50° C., followed by stirring at the same temperature for 2 hrs. The reaction mixture was cooled down to room temperature, and then 4-(4-amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine (949 mg) was added thereto, followed by stirring for 1 hr. The reaction mixture was concentrated under a reduced pressure to give a residue, which was then partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2 to 1:3). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (20 ml) was added to precipitate crystals. The crystals were filtered off and dried under aeration to provide the titled compound (834.5 mg, 54%) as white crystals.

reactant | Thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-fluorophenyl)acetic acid | 694 mg | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | potassium thiocyanate | 875 mg | [S-]C#N.[K+]
reactant | 4-(4-amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 949 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-(2-Fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 834.5 mg, 54% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C25H23F2N5O3S
